US04435567
A solution of 1.35 g 1,2,3,4-tetrahydroisoquinoline with 5 ml aceton was added dropwise to a suspension of 1.5 g phenylcarbamoyl-benzoic acid sulfimide with 20 ml aceton, at ambient temperature. The reaction mixture was stirred for 45 minutes, then diluted with 150 ml water, cooled to 5° C. and the precipitated crystalline product was filtered, washed with water and dried. 1.18 g N-phenylcarbamoyl-1,2,3,4-tetrahydroisoquinoline was obtained with a melting point of 145°-146° C.

reactant | 1,2,3,4-tetrahydroisoquinoline | 1.35 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | aceton | 5 ml | CC(=O)C | C3H6O
reactant | phenylcarbamoyl-benzoic acid sulfimide | 1.5 g | [SH2]=N.C1(=CC=CC=C1)NC(=O)C1=C(C(=O)O)C=CC=C1
reactant | aceton | 20 ml | CC(=O)C | C3H6O
solvent | water | 150 ml | O | H2O
product | N-phenylcarbamoyl-1,2,3,4-tetrahydroisoquinoline | 1.18 g | C1(=CC=CC=C1)NC(=O)N1CC2=CC=CC=C2CC1 | C16H16N2O
